US07423158B2
A homogeneous mixture of (5R)-5-benzyl-2,2,3-trimethyl imidazolidin-4-one dichloroaccetic acid salt (97 mg, 0.4 mmol) and N-fluorobenzenesulfonimide (3.15 g, 10 mmol) in a 9:1 mixture of acetone and isopropanol at room temperature is treated with (3-bromophenyl)acetaldehyde (280 mg, 1.4 mmol), stirred for 1 h at room temperature, cooled to −78° C., diluted with ether, and filtered through a pad of celite. The filtercake is washed with additional ether. The combined filtrates are treated with methylsulfide (5 mL), washed with saturated NaHCO3 and brine, dried over MgSO4 and concentrated under reduced pressure to give (R)-2-fluro-2-(3-bromophenyl)acetaldehyde.

reactant | (5R)-5-benzyl-2,2,3-trimethyl imidazolidin-4-one | C(C1=CC=CC=C1)[C@@H]1C(N(C(N1)(C)C)C)=O | C13H18N2O
reactant | N-fluorobenzenesulfonimide | 10 mmol, 3.15 g | C1=CC=C(C=C1)S(=O)(=O)N(F)S(=O)(=O)C2=CC=CC=C2 | C12H10FNO4S2
reactant | acetone | CC(=O)C | C3H6O
reactant | (3-bromophenyl)acetaldehyde | 1.4 mmol, 280 mg | BrC=1C=C(C=CC1)CC=O | C8H7BrO
solvent | ether | CCOCC | C4H10O
solvent | isopropanol | C(C)(C)O | C3H8O
product | (R)-2-fluro-2-(3-bromophenyl)acetaldehyde | F[C@@H](C=O)C1=CC(=CC=C1)Br | C8H6BrFO
